US04556711
5-Phenyl-2-(1H)-pyrazinone (56 g) was added in portions over 30 minutes to a stirred mixture of concentrated sulphuric acid (35 ml) and fuming nitric acid (200 ml). The temperature of the nitrating mixture was initially at -20° C. and care was taken to ensure that the temperature did not rise above -15° C. When the pyrazinone had completely dissolved the reaction mixture was allowed to warm to -10° C., stirred for a further 30 minutes, and poured slowly on to ice/water (1500 ml). A pale yellow solid precipitated which was collected by filtration, washed with a small amount of cold water and dried to afford 5-(4-nitrophenyl)-2-(1H)-pyrazinone (58.1 g).

reactant | 5-Phenyl-2-(1H)-pyrazinone | 56 g | C1(=CC=CC=C1)C=1N=CC(NC1)=O | C10H8N2O
reactant | sulphuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 200 ml | [N+](=O)(O)[O-] | HNO3
reactant | pyrazinone | N1C(C=NC=C1)=O | C4H4N2O
product | 5-(4-nitrophenyl)-2-(1H)-pyrazinone | 58.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=CC(NC1)=O | C10H7N3O3
